US09102673B2
Intermediate B4: {2-[4-(Trifluoromethoxy)phenyl]-1,3-thiazol-4-yl}methanol
To a solution of ethyl 2-[4-(trifluoromethoxy)phenyl]-1,3-thiazole-4-carboxylate (71 mg, 0.224 mmol) in 2-MeTHF (1 mL) was added 2M LiBH4 (0.224 mL, 0.448 mmol) in THF slowly at RT. After 90 min the mixture was quenched by the addition of 2M NaOH (0.6 mL, 1.200 mmole). The mixture was stirred for 4 hr then diluted with EtOAc, filtered through a pad of Celite and concentrated to give the title compound (60 mg, 97%). 1H NMR (400 MHz, CDCl3): δ 8.00-7.96 (m, 2 H); 7.31-7.25 (m, 2 H); 7.21 (s, 1 H); 4.84 (d, J=5.6 Hz, 2 H); 2.29-2.22 (m, 1 H).

reactant | ethyl 2-[4-(trifluoromethoxy)phenyl]-1,3-thiazole-4-carboxylate | 0.224 mmol, 71 mg | FC(OC1=CC=C(C=C1)C=1SC=C(N1)C(=O)OCC)(F)F | C13H10F3NO3S
reactant | LiBH4 | 0.448 mmol, 2M, 0.224 mL | [Li+].[BH4-]
reactant | NaOH | 1.200 mmole, 2M, 0.6 mL | [OH-].[Na+]
solvent | 2-MeTHF | 1 mL | CC1CCCO1 | C5H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {2-[4-(Trifluoromethoxy)phenyl]-1,3-thiazol-4-yl}methanol | 60 mg, 97% | FC(OC1=CC=C(C=C1)C=1SC=C(N1)CO)(F)F | C11H8F3NO2S
